US04710500
1-(4'-Fluorophenyl)-3-(1-(2--imidazolidinon-1-ylethyl)-4-piperidyl)-1H-indole.
5-Chloro-1-(4'-fluorophenyl)-3-(1-(2-imidazolidinon-1-ylethyl)-4-piperidyl)-1H-indole, maleate. (Lu 23-174). M.p. 155°-160° C.

reactant | 5-Chloro-1-(4'-fluorophenyl)-3-(1-(2-imidazolidinon-1-ylethyl)-4-piperidyl)-1H-indole | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)C1CCN(CC1)CCN1C(NCC1)=O | C24H26ClFN4O
reactant | maleate | C(\C=C/C(=O)[O-])(=O)[O-]
product | 1-(4'-Fluorophenyl)-3-(1-(2--imidazolidinon-1-ylethyl)-4-piperidyl)-1H-indole | FC1=CC=C(C=C1)N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCN1C(NCC1)=O | C24H27FN4O
